US04921854
7-Amino-2-phenyl-5-imino-2,3-dihydro-5H-thiazolo[3,2-a]pyrimidine-hydrobromide
A mixture of 14.2 g (0.1 mole) of 2-mercapto-4,6-diamino-pyrimidine, 30.4 g (0.115 mole) of (1,2-dibromo-ethyl)-benzene, 200 ml of dimethyl formamide and 13.8 g (0.1 mole) of potassium carbonate is stirred at 45° C. for 6 hours. The reaction mixture is cooled, the precipitate is filtered, washed with water and dried. Thus 26.0 g of the desired compound are obtained, yield 80%, m.p.: above 300° C.

reactant | 2-mercapto-4,6-diamino-pyrimidine | 0.1 mole, 14.2 g | SC1=NC(=CC(=N1)N)N | C4H6N4S
reactant | (1,2-dibromo-ethyl)-benzene | 0.115 mole, 30.4 g | BrC(CBr)C1=CC=CC=C1 | C8H8Br2
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 7-Amino-2-phenyl-5-imino-2,3-dihydro-5H-thiazolo[3,2-a]pyrimidine-hydrobromide | 26.0 g, yield 80% | Br.NC=1N=C2N(C(C1)=N)CC(S2)C2=CC=CC=C2 | InChI=1S/C12H12N4S.BrH/c13-10-6-11(14)16-7-9(17-12(16)15-10)8-4-2-1-3-5-8;/h1-6,9,14H,7,13H2;1H
